US07371747B2
(1-Cyanocyclopropyl)-2-hydroxymethyl-cyclohexane-carboxamide was dissolved, along with triphenylphosphine (2.77 g, 10.58 mmol) in tetrahydrofuran (100 mL) (Note—heating was required to effect dissolution). The reaction mixture was cooled carefully in an ice/water bath, ensuring the solution remained homogeneous. N-bromosuccinimide (1.88 g, 10.58 mmol) was added in small portions. Once a clear solution had formed, the cooling bath was removed, and the reaction mixture was permitted to stir overnight. The solvent was evaporated and the residue was purified on a short plug of silica gel (30-60% ethyl acetate/hexane) to give (1-cyanocyclopropyl)-2-bromomethylcyclohexanecarboxamide. MS [ESI, (M+H)+] m/z=285, 287.

reactant | (1-Cyanocyclopropyl)-2-hydroxymethyl-cyclohexane-carboxamide | C(#N)C1(CC1)C1(C(CCCC1)CO)C(=O)N | C12H18N2O2
reactant | triphenylphosphine | 10.58 mmol, 2.77 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 10.58 mmol, 1.88 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (1-cyanocyclopropyl)-2-bromomethylcyclohexanecarboxamide | C(#N)C1(CC1)C1(C(CCCC1)CBr)C(=O)N | C12H17BrN2O
